US08026257B2
3-Bromo-2-iodo-5-(trifluoromethyl)aniline.
3-Bromo-5-(trifluoromethyl)aniline (20 g, 83 mmol) in acetic acid (150 ml) was treated portionwise with N-iodosuccinimide (20.62 g, 92 mmol). The reaction was stirred 24 h at ambient temperature. The reaction was diluted with ethyl acetate (600 mL) and was washed with aqueous sodium bisulfie (100 mL) and brine (100 mL). The organic layer was dried with magnesium sulfate and evaporated. The residue was purified on a silica gel column with a gradient of ethyl acetate/hexanes from 7% to 15% to give 23.5 g (77%) of slightly impure product. 1H-NMR (CDCl3, 400 MHz) δ 7.21 (d, J=1.3 Hz, 1H), 6.82 (d, J=1.5 Hz, 1H), 4.57 (bs, 2H); LC/MS (HPLC method 4): tR=3.578 min, 365.80(MH)+.

reactant | 3-Bromo-5-(trifluoromethyl)aniline | 83 mmol, 20 g | BrC=1C=C(N)C=C(C1)C(F)(F)F | C7H5BrF3N
reactant | N-iodosuccinimide | 92 mmol, 20.62 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-2-iodo-5-(trifluoromethyl)aniline | BrC=1C(=C(N)C=C(C1)C(F)(F)F)I | C7H4BrF3IN
